US04243678
Analogously to Example 1, ethyl N-crotonoyl-4-[(1,1,3,3-tetramethylbutyl)amino]butyrate is obtained as a viscous oil by reacting the reaction product of ethyl 4-bromobutyrate and 1,1,3,3-tetramethylbutylamine with crotonic acid chloride, the saponification of which yields N-crotonoyl-4-[(1,1,3,3-tetramethylbutyl)amino]butyric acid (M.P. 92° to 93°).

reactant | ethyl 4-bromobutyrate | BrCCCC(=O)OCC | C6H11BrO2
reactant | 1,1,3,3-tetramethylbutylamine | CC(CC(C)(C)C)(C)N | C8H19N
reactant | crotonic acid chloride | C(\C=C\C)(=O)Cl | C4H5ClO
product | N-crotonoyl-4-[(1,1,3,3-tetramethylbutyl)amino]butyric acid | C(\C=C\C)(=O)N(CCCC(=O)O)C(CC(C)(C)C)(C)C | C16H29NO3
